US08420632B2
A solution of 2.1 g (38 mmol) of KOH in 20 ml of water and then 6.7 g (30 mmol) of 1-aminopyridinium iodide are added to a solution of 2.5 g (15 mmol) of ethyl 4,4,4-trifluorobut-2-ynoate in 25 ml of dichloromethane. After stirring at ambient temperature for 5 h, water is added and the reaction medium is extracted with dichloromethane. The organic phase is washed with water, dried over magnesium sulfate. filtered and concentrated. The residue obtained is purified by chromatography on silica gel, elution being carried out with an 8/2 heptane/ethyl acetate mixture. 2.8 g (73%) of ethyl 2-trifluoromethylpyrazolo[1,5-a]pyridine-3-carboxylate are obtained in the form of a yellow solid.

reactant | KOH | 38 mmol, 2.1 g | [OH-].[K+]
reactant | 1-aminopyridinium iodide | 30 mmol, 6.7 g | [I-].N[N+]1=CC=CC=C1
reactant | ethyl 4,4,4-trifluorobut-2-ynoate | 15 mmol, 2.5 g | FC(C#CC(=O)OCC)(F)F | C6H5F3O2
solvent | water | 20 ml | O | H2O
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | ethyl 2-trifluoromethylpyrazolo[1,5-a]pyridine-3-carboxylate | 2.8 g, 73% | FC(C1=NN2C(C=CC=C2)=C1C(=O)OCC)(F)F | C11H9F3N2O2
